US09447025B2
To a solution of 3-aminobicyclo[1.1.1]pentane-1-carboxylic acid (1 mmol) in anhydrous THF (2 mL) at 0° C. under nitrogen is added a methyllithium (1.4 M in diethyl ether, 4 mmol) in a dropwise manner. After addition, the reaction mixture is slowly allowed to warm to room temperature, stirred overnight, and treated with aqueous saturated ammonium chloride solution (4 mL). Ethyl acetate (2 mL) is added and organic layer are separated. The aqueous layer is extracted with ethyl acetate (3×1 mL). The combined organic layers are dried (Mg2SO4) and concentrated. The residue is purified by a flash chromatography on silica gel (EtOAc/hexnaes) to give 1-(3-aminobicyclo[1.1.1]pentan-1-yl)ethanone.

reactant | 3-aminobicyclo[1.1.1]pentane-1-carboxylic acid | 1 mmol | NC12CC(C1)(C2)C(=O)O | C6H9NO2
reactant | methyllithium | 4 mmol, 1.4 M | C[Li]
reactant | ammonium chloride | 4 mL | [Cl-].[NH4+]
reactant | Ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 1-(3-aminobicyclo[1.1.1]pentan-1-yl)ethanone | NC12CC(C1)(C2)C(C)=O | C7H11NO
